US05051423
N-[4-[[2-Hydroxy-3-(3-methylphenoxy)propyl]aminomethyl]phenyl]methanesulfonamide hydrochloride
Heat a mixture of N-[4-(aminomethyl)phenyl]methanesulfonamide hydrochloride(15.0 g, 63.4 mmol) and 1,2-epoxy-3-phenoxypropane (10.41 g, 63.4 mmol) in 63.4 mL of 1 N KOH in methanol and 10 mL of water for about 3.5 h. Remove the solvent to afford crystals of the title compound.

reactant | N-[4-(aminomethyl)phenyl]methanesulfonamide hydrochloride | 63.4 mmol, 15.0 g | Cl.NCC1=CC=C(C=C1)NS(=O)(=O)C
reactant | 1,2-epoxy-3-phenoxypropane | 63.4 mmol, 10.41 g | O1CC1COC1=CC=CC=C1 | C9H10O2
reactant | water | 10 mL | O | H2O
reactant | methanol | CO | CH4O
solvent | KOH | 1 N, 63.4 mL | [OH-].[K+]
product | N-[4-[[2-Hydroxy-3-(3-methylphenoxy)propyl]aminomethyl]phenyl]methanesulfonamide hydrochloride | Cl.OC(CNCC1=CC=C(C=C1)NS(=O)(=O)C)COC1=CC(=CC=C1)C | InChI=1S/C18H24N2O4S.ClH/c1-14-4-3-5-18(10-14)24-13-17(21)12-19-11-15-6-8-16(9-7-15)20-25(2,22)23;/h3-10,17,19-21H,11-13H2,1-2H3;1H
